Name:  ___                        Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
spell of unconsciousness 

 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ from ___ with hypertension and an extensive smoking 
history BIBA for evaluation of a witnessed spell of 
unconsciousness. 

Event was witnessed by patient's daughter who is present during 
the interview.  Patient denies any prodromal symptoms prior to 
the event.  It was around 11PM and he was having a conversation 
with his daughter while sitting in a chair.  Daughter states 
that in an instance, patient had a slight stiffening to his 
posture and dropped the mug he was holding, his neck went back 
and his eyes and mouth were open.  She states he remained in 
this position for about ___ minutes and did not go into any 
clonic movements, bite his tongue, have any incontinence, or 
fall to the ground.  He was not responsive to tactile or verbal 
stimuli. After the event, patient has an almost immediate return 
to his baseline orientation, but was sweaty and nauseated.  He 
had several episodes on vomiting prior to the ambulance coming 
as well as en route to ___.  He denies any alcohol use 
surrounding the event and per EMS report patient was not 
hypoglycemic.  There have been no medication changes. 

Patient states that a similar episode happened about ___ months 
ago in ___, though shorter duration, and he wore a monitor 
after the event but a subsequent event was never captured. He 
has never been told he has heart disease.   

At this point, patient states that he feels a little groggy and 
tired, but otherwise has no complaints. 

REVIEW OF SYSTEMS: 

Patient endorses some chronic unsteadiness, chronic 
constipation/bloating, chronic bilateral knee pain, and 
shortness of breath with exertion. Denies any fevers, chills, 
night sweats, weight loss, chest pain, cough, hemoptysis, 
headaches, vision changes, abdominal pain, diarrhea, dysuria.   

 
Past Medical History:
-Hypertension 
-Tobacco use ___ yrs smoked ___, quit in ___
-___
 
Social History:
___
Family History:
-No family history of seizure disorder  
 
Physical Exam:
=================================
EXAM ON ADMISSION
=================================
Vital Signs: 97.9 168/72 68 18 98%RA   
General: Alert, oriented, no acute distress  
HEENT: Sclerae anicteric, MMM, oropharynx clear
Neck: JVP flat no cervical or supraclavicular LAD  
CV: Regular rate and rhythm, normal S1 + S2, II/VI murmur at the 
mitral area  
Lungs: minimal wheeze bilaterally   
Abdomen: Soft, non-tender, non-distended,no rebound or guarding  
 
Ext: Warm, trace pitting edema to knees  
Neuro: alert and oriented, speech fluent, CNII-XII intact, ___ 
strength upper/lower extremities, grossly normal sensation, 
negative rhomberg, gait grossly normal.  

=================================
EXAM ON DISCHARGE
=================================

Vital Signs: 98.2 134/66 59 18 95%RA 
General: Alert, oriented, no acute distress  
HEENT: Sclerae anicteric, MMM, oropharynx clear
Neck: JVP flat no cervical or supraclavicular LAD  
CV: Regular rate and rhythm, normal S1 + S2, II/VI murmur at the 
mitral area  
Lungs: clear to ausculatation bilaterally   
Abdomen: Soft, non-tender, non-distended, no rebound or guarding 
  
Ext: Warm, trace pitting edema to knees  
Neuro: alert and oriented, speech fluent, CNII-XII intact, ___ 
strength upper/lower extremities, grossly normal sensation, 
negative rhomberg, gait grossly normal.
 
Pertinent Results:
==================================
LABS ON ADMISSION
==================================

___ 01:50AM BLOOD WBC-10.7* RBC-3.99* Hgb-11.6* Hct-36.1* 
MCV-91 MCH-29.1 MCHC-32.1 RDW-15.3 RDWSD-50.4* Plt ___
___ 01:50AM BLOOD Neuts-74.9* Lymphs-16.4* Monos-6.1 
Eos-1.3 Baso-0.6 Im ___ AbsNeut-8.05* AbsLymp-1.76 
AbsMono-0.65 AbsEos-0.14 AbsBaso-0.06
___ 01:50AM BLOOD Glucose-143* UreaN-16 Creat-1.1 Na-136 
K-4.1 Cl-102 HCO3-23 AnGap-15
___ 01:50AM BLOOD ALT-15 AST-25 LD(LDH)-210 AlkPhos-95 
TotBili-0.3
___ 08:33AM BLOOD cTropnT-<0.01
___ 01:50AM BLOOD cTropnT-<0.01
___ 01:50AM BLOOD Albumin-4.0 Calcium-9.2 Phos-2.7 Mg-2.3 
Iron-69
___ 01:50AM BLOOD calTIBC-384 ___ Ferritn-79 TRF-295
___ 01:50AM BLOOD D-Dimer-805*

==================================
LABS ON DISCHARGE
==================================

___ 08:15AM BLOOD WBC-7.2 RBC-4.02* Hgb-11.7* Hct-37.2* 
MCV-93 MCH-29.1 MCHC-31.5* RDW-15.6* RDWSD-53.0* Plt ___
___ 08:15AM BLOOD Hypochr-NORMAL Anisocy-OCCASIONAL 
Poiklo-NORMAL Macrocy-NORMAL Microcy-NORMAL Polychr-OCCASIONAL
___ 08:15AM BLOOD Glucose-98 UreaN-15 Creat-1.0 Na-140 
K-4.0 Cl-106 HCO3-26 AnGap-12

==================================
MICROBIOLOGY
==================================
___ Acid fast smear x3 - Negative

==================================
IMAGING
==================================
___ CXR PA+LAT
FINDINGS:  
Paraseptal emphysema is better appreciated on subsequent chest 
CTA. There 
indistinct right greater than left apical opacities.  No pleural 
effusion or pneumothorax visualized.  Heart size is normal.  The 
mediastinal silhouette is unremarkable. 
IMPRESSION:  
Indistinct right greater than left apical opacities.  Given this 
distribution, tuberculosis is a consideration. 

___ CTA Chest:
1. No evidence of pulmonary embolism or acute aortic syndrome. 
2. Apical ground-glass and solid or consolidative opacities 
raise the possibility of infection, alternatively severe 
scarring.  Recommend follow-up chest CT by 3 months to assess 
for change as this patient is presumed high risk for lung cancer 
with moderate to severe paraseptal emphysema. 

___ CT Head without contrast:
1. No acute intracranial abnormality on noncontrast head CT.  
Specifically no large territory infarct, acute hemorrhage or 
intracranial mass effect. 
2. Additional findings as described above. 

___ TTE:
The left atrium and right atrium are normal in cavity size. The 
estimated right atrial pressure is ___ mmHg. Normal left 
ventricular wall thickness, cavity size, and regional/global 
systolic function (biplane LVEF = 66 %). The estimated cardiac 
index is normal (>=2.5L/min/m2). There is no left ventricular 
outflow obstruction at rest or with Valsalva. Right ventricular 
chamber size and free wall motion are normal. The diameters of 
aorta at the sinus, ascending and arch levels are normal. The 
aortic valve leaflets are mildly thickened (?#). The mitral 
valve leaflets are structurally normal. There is no mitral valve 
prolapse. Very mild (1+) mitral regurgitation is seen. The 
estimated pulmonary artery systolic pressure is normal. There is 
no pericardial effusion. 
IMPRESSION: Normal biventricular cavity sizes with preserved 
regional and global biventricular systolic function. Mild mitral 
regurgitation with normal valve morphology. No structural 
cardiac cause of syncope identified.
CLINICAL IMPLICATIONS: 
Based on ___ AHA endocarditis prophylaxis recommendations, the 
echo findings indicate prophylaxis is NOT recommended. Clinical 
decisions regarding the need for prophylaxis should be based on 
clinical and echocardiographic data.  

 
Brief Hospital Course:
Mr. ___ is a ___ gentleman from ___ with a past medical history 
notable for active hypertension and a prior 60 pack year smoking 
history who was brought in by ambulance for evaluation of a 
witnessed spell of unconsciousness at home.  He was admitted to 
the medical floor after a chest CT performed to rule out PE 
showed apical opacities concerning for TB (though he had no 
active symptoms).  In the mean time his work up was negative for 
the spell of unconsciousness.  He recalls a fall with lapse of 
consciousness in the past while in ___, and he wore a cardiac 
monitor for a couple days, but his workup was negative at that 
time as well.

#Spell of unconsciousness 
The history did not suggest any obvious vagal-mediated cause to 
the spell. Patient was worked up for cardiogenic, orthostatic, 
and neurologic causes.  His cardiovascular risk profile is 
profound given his age, gender, current hypertension, and 60 
pack year smoking history.  His baseline EKG revealed a right 
bundle branch block of unclear acuity, so CTA Chest was 
performed which ruled out pulmonary embolism.  He has two 
negative troponins. He was monitored on telemetry to screen for 
arrhythmogenic syncope, but did not have another spell and no 
irregular rhythms were identified.  An ECHO was performed to 
rule out structural causes for cardiogenic syncope given his 
risk profile, systolic murmur at the mitral area, and trace 
pitting edema - which showed mild mitral regurgitation, but 
otherwise was normal.  A head CT did not show any structural 
lesions that could serve as a seizure focus. An EEG was not 
performed. Orthostatics were negative. He was counseled on 
avoiding activities such as driving, swimming alone, working on 
a ladder, and handling infants while standing. Given these 
negative findings, patient was discharged home with plan to 
establish with a PCP in the ___. 

#Apical ground-glass and solid/consolidative opacities 
During CTA rule out of PE, patient noted to have apical 
scarring, concerning for TB. Three induced sputums were sent, 
and returned negative.  He had no symptoms of fevers, chills, 
night sweats, weight loss, sputum production, cough, or 
hemoptysis. He should have a QuantiFeron test performed as an 
outpatient to screen for latent TB given his history of BCG 
vaccine. 

#Bullous lung disease
Also noted during CTA rule out PE. Concerning for obstructive 
lung disease given his extensive smoking history and shortness 
of breath with exertion. He had an ambulatory pulse ox performed 
at maintained his O2 saturation above 95%. 

#Mild normocytic anemia
#Mild thrombocytopenia
Incidentally discovered on routine labs, of unclear acuity.  His 
iron studies were normal and he was not bleeding or showing 
signs of hemolysis. There were no concerning RBC morphologies on 
his smear.  To be followed up as an outpatient. 

#Insurance status 
Patient has only been in the ___ for 1 week visiting 
his daughter.  Our case managers facilitated a mass health 
application, and we instructed the patient to establish primary 
care once approved as he will likely be in the ___ for several 
months. 

=============================
TRANSITIONAL ISSUES
=============================
___ need cardiology and neurology referral to discuss utility 
of long term cardiac monitoring for diagnosis of arrhythmogenic 
syncope and to further investigate if these events represent 
seizure. 

#Noted to have anemia and thrombocytopenia of unclear 
chronicity, please trend and consider hematology referral. 

#Patient transitioned to amlodipine 10mg daily to treat his 
hypertension as Cilicar (Cilnidipine) is not available in the 
___. 

#Monitor pitting edema, may be ___ calcium channel blocker use

#Follow-up chest CT within 3 months (___) to assess 
for change in the apical ground-glass and solid/consolidative 
opacities (patient is a presumed high risk for lung cancer) 

#TB evaluation - Final TB cultures pending at time of discharge, 
though smear x3 was negative. Given CT findings, please evaluate 
for latent TB. Would recommend sending a QuantiFeron Gold given 
his history of BCG vaccine. If positive, please screen for HIV 
as well. 

 
Medications on Admission:
-Cilicar (Cilnidipine) 20mg daily 
-Glucosamine   
 
Discharge Medications:
1.  amLODIPine 10 mg PO DAILY 
RX *amlodipine 10 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*1 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
=========================
Primary diagnosis 
=========================
- spell of unconsciousness

=========================
Secondary Diagnoses
=========================
- apical lung scarring
- bullous lung disease
- hypertension
- anemia 
- thrombocytopenia 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___, 

====================================
WHY DID YOU COME TO THE HOSPITAL? 
====================================
-You had a spell of unconsciousness at home. 

====================================
WHAT HAPPENED AT THE ___? 
====================================
-You did not have another fainting spell.  We discussed that we 
may never know exactly what happened, and that the goal of the 
hospitalization was to make sure nothing major was wrong with 
your heart or brain. 
-We confirmed you did not have a heart attack or blood clot in 
the lung
-We performed a CAT scan of your head which did not show any 
areas that may predispose you to seizure. 
-We performed an ultrasound of the heart that did not suggest 
any abnormalities 
-We monitored your heart rhythm closely, which was normal
-We tested you for an active tuberculosis infection, which you 
do not have

====================================================
WHAT NEEDS TO HAPPEN WHEN YOU LEAVE THE HOSPITAL? 
====================================================
-Please refrain from doing any activity that would potentially 
cause harm if you become unconscious again.  This includes 
driving, swimming alone, performing work on a ladder, holding 
infant children. 
-Once you have been approved for Mass Health, call the ___ 
___ at ___ to schedule a 
follow up appointment. You can also call them if there are any 
problems with your health insurance application.  

It was a pleasure taking care of you! 

Sincerely, 

Your ___ medical team 

 
Followup Instructions:
___